US07307166B1
Synthesis of 5′-O-Palmitoyl-N2-Isobutyryl-2′-Deoxyguanosine
To an oven-dried 100 mL round-bottomed flask containing a stir bar was added N2-isobutyryl-2′-deoxyguanosine (0.75 g, 1 eq.). The flask was fitted with a septum and dry dimethylacetamide (DMA, 32 mL) and dry pyridine (16 mL) were added via cannula, with swirling and stirring. The flask was purged with argon gas, the slurry was allowed to cool 10 min. in an ice bath, and palmitoyl chloride (2.5 eq.) was added dropwise over 5 min. The mixture was allowed to stir while it slowly warmed to 25° C. After 24 h, the mixture was poured into 200 mL of 0.5 M potassium bicarbonate solution giving a white solid which was isolated by suction filtration, washed with 3×30 mL H2O, air dried, and finally dried under high vacuum giving a white powder. This crude product was purified by flash chromatography (silica gel bed, eluted with chloroform-methanol) giving a white powder. 1H-NMR and elemental analysis data were consistent with the assigned structure.

reactant | N2-isobutyryl-2′-deoxyguanosine | 0.75 g, 1 eq. | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N1)=O | C14H19N5O5
reactant | dimethylacetamide | 32 mL | CC(=O)N(C)C | C4H9NO
reactant | palmitoyl chloride | 2.5 eq. | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | potassium bicarbonate | 0.5 M, 200 mL | C([O-])(O)=O.[K+]
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
product | 5′-O-Palmitoyl-N2-Isobutyryl-2′-Deoxyguanosine | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(NC(C(C)C)=O)=NC12)O | C30H49N5O6
